US05703052
(3β,25R)-3-ethoxymethoxy-5-spirostene
A mixture of diosgenin (2.5 g, 6.0 mmol), chioromethyl ethyl ether (1.14 g, 12.0 mmol), diisopropylethylamine (3.90 g, 30.0 mmol) and 1,2-dichloroethane (75 mL) was stirred under nitrogen atmosphere at ambient temperature for 4 hours. Methanol (<1 mL) was added to quench the reaction. The mixture was diluted with ethyl acetate and washed with water (2×), brine (1×), dried over sodium sulfate, filtered and concentrated in vacuo to give 2.17 g (76.5%) of the title compound as a colorless solid.

reactant | diosgenin | 6.0 mmol, 2.5 g | C[C@@H]1CC[C@@]2([C@H]([C@H]3[C@@H](O2)C[C@@H]4[C@@]3(CC[C@H]5[C@H]4CC=C6[C@@]5(CC[C@@H](C6)O)C)C)C)OC1 | C27H42O3
reactant | chioromethyl ethyl ether | 12.0 mmol, 1.14 g | C(C)OCCl | C3H7ClO
reactant | diisopropylethylamine | 30.0 mmol, 3.90 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,2-dichloroethane | 75 mL | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Methanol | <1 mL | CO | CH4O
product | (3β,25R)-3-ethoxymethoxy-5-spirostene | 2.17 g, 76.5% | C(C)OCO[C@@H]1CC2=CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C30H48O4
